US08664220B2
Step 1: [4′-(4-{Hydroxy-[1-(3-trifluoromethyl-benzyl)-1H-[1,2,3]triazol-4-yl]-methyl}-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1-(3-trifluoromethyl-benzyl)-1H-[1,2,3]triazol-4-yl]-methanol and [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1-(3-trifluoromethyl-benzyl)-1H-[1,2,3]triazol-4-yl]-methanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C=1N=NN(C1)CC1=CC(=CC=C1)C(F)(F)F | C21H16BrF3N4O2
reactant | [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO4
product | [4′-(4-{Hydroxy-[1-(3-trifluoromethyl-benzyl)-1H-[1,2,3]triazol-4-yl]-methyl}-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(C=1N=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)O)=O | C31H27F3N4O4
